US04661501
(2) 1-(3-Phenoxyphenyl)-4-(4-methylphenyl)-4-methylpentane
To 30 ml of ethyle acetate, 1.9 g of a mixture of 50% 1-(3-phenoxyphenyl)-4-(4-methylphenyl)-4-methyl-2-pentene and 50% 1-(3-phenoxyphenyl)-4-(4-methylphenyl)-4-methyl-1-pentene was added and dissolved, and thereto 0.4 g of 5% Pd-C was added, and the mixture was stirred under a pressure of 20 kg/cm2G with hydrogen gas at room temperature. After three hours, Pd-C was removed by filtration, and ethyl acetate was evaporated under reduced pressure.

reactant | 1-(3-phenoxyphenyl)-4-(4-methylphenyl)-4-methyl-2-pentene | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC=CC(C)(C)C1=CC=C(C=C1)C | C25H26O
reactant | 1-(3-phenoxyphenyl)-4-(4-methylphenyl)-4-methyl-1-pentene | O(C1=CC=CC=C1)C=1C=C(C=CC1)C=CCC(C)(C)C1=CC=C(C=C1)C | C25H26O
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 0.4 g | [Pd] | Pd
solvent | acetate | 30 ml | C(C)(=O)[O-]
product | 1-(3-Phenoxyphenyl)-4-(4-methylphenyl)-4-methylpentane | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCC(C)(C)C1=CC=C(C=C1)C | C25H28O
